US06699887B2
A suspension of 3.9 g of ethyl hydrazine oxalate and 3.6 ml of triethylamine in 80 ml of toluene was stirred at room temperature for 15 min. 2.8 ml of methyl acetoacetate was added and the mixture was azeotroped for 1.5 h. The mixture was evaporated and the residue was purified by flash chromatography on silica gel using dichloromethane/methanol (97:3) for the elution to give 3.1 g of 2-ethyl-5-methyl-2H-pyrazol-3-ol as an orange solid.

reactant | ethyl hydrazine oxalate | 3.9 g | C(C(=O)O)(=O)O.C(C)NN
reactant | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
reactant | methyl acetoacetate | 2.8 ml | C(CC(=O)C)(=O)OC | C5H8O3
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 2-ethyl-5-methyl-2H-pyrazol-3-ol | 3.1 g | C(C)N1N=C(C=C1O)C | C6H10N2O
